US07183306B2
A mixture of 4-hydroxypropiophenone (20 g), benzyl chloride (16.1 ml), K2CO3 (12.9 g) and KI (2.21 g) in EtOH (80 ml) and H2O (1 ml) was stirred under reflux condition for 4 hours. The reaction mixture was cooled and filtered. Appeared crystal was dissovled with EtOAc and water. Organic layer was separated and washed with water and brine, dried over MgSO4 and filtered. Filtrate was evaporated under reduced pressure to give 30.0 g (94%) of 1-[4-(benzyloxy)phenyl]-1-propanone as a crystal.

reactant | 4-hydroxypropiophenone | 20 g | CCC(=O)C1=CC=C(C=C1)O | C9H10O2
reactant | benzyl chloride | 16.1 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | K2CO3 | 12.9 g | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | 1 ml | O | H2O
solvent | EtOH | 80 ml | CCO | C2H6O
product | 1-[4-(benzyloxy)phenyl]-1-propanone | 30.0 g, 94% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CC)=O | C16H16O2
